US06245761B1
Preparation of N-isopropyl-4-(2-fluoro-5-bromobenzyloxy)but-2-ynyl amine
A solution of isopropylamine (0.25 ml, 2.9 mmol) was added to a solution of 4-(2-fluoro-5-bromobenzyloxy)but-2-ynyl bromide (97 mg, 0.29 mmol) in tetrahydrofuran (1.4 ml). The cloudy reaction mixture was stirred for about twenty hours, at which time no starting material remained, as determined by thin layer chromatography. The solvents were removed in vacuo. The residue was taken up in methylene chloride and washed with 1 M potassium carbonate. The aqueous phase was back extracted with methylene chloride (2×5 ml). The organic fractions were combined, and dried over sodium sulfate. The solvents were removed in vacuo. The resulting oil was further purified by flash chromatography, affording 78 milligrams (86%) of the title intermediate.

reactant | isopropylamine | 2.9 mmol, 0.25 ml | C(C)(C)N | C3H9N
reactant | 4-(2-fluoro-5-bromobenzyloxy)but-2-ynyl bromide | 0.29 mmol, 97 mg | FC1=C(COCC#CCBr)C=C(C=C1)Br | C11H9Br2FO
solvent | tetrahydrofuran | 1.4 ml | O1CCCC1 | C4H8O
product | N-isopropyl-4-(2-fluoro-5-bromobenzyloxy)but-2-ynyl amine | 78 milligrams, 86% | C(C)(C)NCC#CCOCC1=C(C=CC(=C1)Br)F | C14H17BrFNO
